US06919351B2
6-({[(8-hydroxy-1,6-naphthyridin-7-yl)carbonyl]amino}methyl)-2,3-dihydroimidazo[2,1-b][1,3]thiazole
The title compound was prepared as the imidazothiazol-4-ium trifluoroacetate salt using the procedure described in Example 1, Step 4 replacing 2-(ammoniomethyl)-1H-benzimidazol-1-ium dichloride hydrate with 1-(2,3-dihydroimidazo[2,1-b][1,3]thiazol-6-yl)methanamine.

reactant | imidazothiazol-4-ium trifluoroacetate salt | FC(C(=O)[O-])(F)F.S1CN=C2C1=NC=[NH+]2
reactant | 2-(ammoniomethyl)-1H-benzimidazol-1-ium dichloride hydrate | O.[Cl-].[Cl-].[NH3+]CC1=NC2=C([NH2+]1)C=CC=C2
reactant | 1-(2,3-dihydroimidazo[2,1-b][1,3]thiazol-6-yl)methanamine | S1C=2N(CC1)C=C(N2)CN | C6H9N3S
product | 6-({[(8-hydroxy-1,6-naphthyridin-7-yl)carbonyl]amino}methyl)-2,3-dihydroimidazo[2,1-b][1,3]thiazole | OC=1C(=NC=C2C=CC=NC12)C(=O)NCC=1N=C2SCCN2C1 | C15H13N5O2S
